US05123954
Synthesis of N-(2-butenyl)-N-(4-chloro-3-isopropylphenyl)-2-chloro-2-(3-fluorophenyl)acetamide
2.6 g of 2-chloro-2-(3-fluorophenyl)acetyl chloride were gradually added dropwise to 2.2 g of N-(2-butenyl)-N-(4-chloro-3-isopropylphenyl)amine and 2.0 g of anhydrous potassium carbonate in 40 ml of N,N-dimethylformamide with stirring at 20°-30° C. After the stirring was additionally continued for 20 minutes, potassium carbonate was removed by filtration, and extraction was then carried out with toluene. After drying over anhydrous sodium sulfate, the reaction solution was concentrated by means of an evaporator to quantitatively obtain the desired oily product.

reactant | 2-chloro-2-(3-fluorophenyl)acetyl chloride | 2.6 g | ClC(C(=O)Cl)C1=CC(=CC=C1)F | C8H5Cl2FO
reactant | N-(2-butenyl)-N-(4-chloro-3-isopropylphenyl)amine | 2.2 g | C(C=CC)NC1=CC(=C(C=C1)Cl)C(C)C | C13H18ClN
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-(2-butenyl)-N-(4-chloro-3-isopropylphenyl)-2-chloro-2-(3-fluorophenyl)acetamide | C(C=CC)N(C(C(C1=CC(=CC=C1)F)Cl)=O)C1=CC(=C(C=C1)Cl)C(C)C | C21H22Cl2FNO
